US09024018B2
3-(Methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxylic acid
To a solution of 3-(methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide (12.43 mmol, 3 g, 1 eq.) in TFA (12 mL) was added sodium nitrite (43.5 mmol, 3 g, 3.5 eq.) dissolved in water (6 mL) portion-wise keeping exothermic effervescence under control and the mixture was stirred at room temperature for over 3 hours. The reaction mixture was poured into ice and it was gently stirred until the ice melted. The resulted suspension was filtered, washed with water and ether and dried under vacuum to give the title compound. Yield=61%. δH (DMSO-d6) 8.85 (1H, s), 5.44 (2H, s), 2.25 (3H, s).

reactant | 3-(methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide | 12.43 mmol, 3 g, 1 eq. | CSCN1N=NC=2N(C1=O)C=NC2C(=O)N | C7H8N6O2S
reactant | sodium nitrite | 43.5 mmol, 3 g, 3.5 eq. | N(=O)[O-].[Na+]
solvent | TFA | 12 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 6 mL | O | H2O
product | 3-(Methylthiomethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxylic acid | Yield=61% | CSCN1N=NC=2N(C1=O)C=NC2C(=O)O | C7H7N5O3S
